US08476297B2
Step 5: 3-Methyl-N-(pyridin-3-yl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinoline-2(1H)-carboxamide
3-Methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (0.100 g, 0.343 mmol, semi-pure from the previous reaction) was dissolved in 3 mL DCM and DIEA (0.119 mL, 0.687 mmol) and 3-isocyanatopyridine (79 mg, 0.659 mmol) were added. Stirring was continued for 2 h and the mixture was hydrolyzed with 3 drops of water, diluted with 3 mL DMF and injected on the HPLC for purification. The title compound was obtained. No stereochemical assignment was performed.

reactant | 3-Methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | CC1NC(C2=CC=CC=C2C1)C1=CC=C(C=C1)C(F)(F)F | C17H16F3N
reactant | DIEA | 0.687 mmol, 0.119 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-isocyanatopyridine | 0.659 mmol, 79 mg | N(=C=O)C=1C=NC=CC1 | C6H4N2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | water | 3 drops | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-Methyl-N-(pyridin-3-yl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinoline-2(1H)-carboxamide | CC1N(C(C2=CC=CC=C2C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)NC=1C=NC=CC1 | C23H20F3N3O
